US08455646B2
Preparation of hydroxy-(4-trifluoromethyl-phenyl)-acetic acid ethyl ester (I101)
Ethyl 2-oxo-2-(4-(trifluoromethyl)phenyl)acetate (500 mg, 2.03 mmol) is dissolved in absolute EtOH (10 mL) and cooled at 0° C. under N2. NaBH4 (38.4 mg, 1.02 mmol) is added in two portions and the resulting suspension is allowed to warm to RT and stirred for 45 minutes. The solvent is evaporated, the resulting residue is diluted with Et2O and cool water is added. The organic layer is separated, washed with water and brine, dried over Na2SO4, filtered and evaporated obtaining intermediate I149 as a colorless oil (440 mg, 87% yield).

reactant | Ethyl 2-oxo-2-(4-(trifluoromethyl)phenyl)acetate | 2.03 mmol, 500 mg | O=C(C(=O)OCC)C1=CC=C(C=C1)C(F)(F)F | C11H9F3O3
reactant | NaBH4 | 1.02 mmol, 38.4 mg | [BH4-].[Na+]
solvent | EtOH | 10 mL | CCO | C2H6O
product | hydroxy-(4-trifluoromethyl-phenyl)-acetic acid ethyl ester | 440 mg, 87% yield | C(C)OC(C(C1=CC=C(C=C1)C(F)(F)F)O)=O | C11H11F3O3
